US08609150B2
5.76 g (40.1 mmol) of 4-chloro-2-methoxypyridine was dissolved in 20 ml of dimethylformamide, and a dimethylformamide (20 ml) solution of 8.01 g of N-bromosuccinimide (98%, 44.1 mmol) was dropwise added over a period of 30 minutes. After stirring at room temperature for 2 days, an unreacted material was confirmed, and thus 2.85 g of N-bromosuccinimide (98%, 16 mmol) was further added, followed by stirring at room temperature further for 3 days. The reaction mixture was poured into 250 ml of water, followed by extraction with ethyl ether (100 ml each) three times. The organic layer was washed with water (100 ml), a sodium thiosulfate aqueous solution (100 ml) and then a saturated sodium chloride solution (100 ml), dried over magnesium sulfate and subjected to filtration, and the solvent was distilled off under reduced pressure. The obtained crude product was purified by silica gel chromatography to obtain 7.10 g (yield: 80%) of 5-bromo-4-chloro-2-methoxypyridine.

reactant | 4-chloro-2-methoxypyridine | 40.1 mmol, 5.76 g | ClC1=CC(=NC=C1)OC | C6H6ClNO
reactant | N-bromosuccinimide | 44.1 mmol, 8.01 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | N-bromosuccinimide | 16 mmol, 2.85 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | water | 250 ml | O | H2O
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 5-bromo-4-chloro-2-methoxypyridine | 7.10 g, yield: 80% | BrC=1C(=CC(=NC1)OC)Cl | C6H5BrClNO
